US05151497
L-Leucyl-L-prolinamide hydrobromide (517 mg) was dissolved in DMF (1.5 ml), to which was added triethylamine (0.35 ml) under cooling at -10° C. The mixture was stirred for 10 minutes under ice-cooling and the resultant precipitate was filtered off to give L-leucyl-L-prolinamide in DMF solution, which was immediately used for the next reaction.

reactant | L-Leucyl-L-prolinamide hydrobromide | 517 mg | Br.N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCC1
reactant | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | L-leucyl-L-prolinamide | N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCC1 | C11H21N3O2
